US07592347B2
(2R,6S)-1-Cyclobutyl-4-[1-(4-cyanophenyl)-piperidine-4-carbonyl]-2,6-dimethylpiperazine hydrochloride (E33)
(2R,6S)-4-[1-(4-Cyanophenyl)-piperidine-4-carbonyl]-2,6-dimethylpiperazine hydrochloride (D13)(0.30 g), TEA (0.4 ml), cyclobutanone (0.13 g) and sodium triacetoxyborohydride (0.40 g) in DCM (5 ml) were heated to 100° C. in a microwave reactor for 5 min. The reaction mixture was then washed with saturated potassium carbonate solution (2×30 ml), and brine (30 ml). The organic layer was then dried (MgSO4) and evaporated give the crude product which was purified by column chromatography [silica gel, step gradient 0-10% MeOH (containing 10% 0.880 ammonia solution) in DCM]. Fractions containing the required product were evaporated to give the free base compound which was converted to the HCl salt by redissolving in DCM and then treating with excess hydrogen chloride (1 M solution in diethyl ether), evaporating and then crystallising from acetone to give the title compound (E33) as a pale grey solid (0.053 g). MS electrospray (+ve) 381 (MH+). 1H NMR δ [DMSO-d6]: 11.28 plus 10.10 (1H, m, rotomers), 7.59 (2H, d, J=8.4 Hz), 7.00 (2H, d, J=8.OHz), 4.31-3.73 (6H, m), 3.60-3.22 (3H, m), 2.97 (3H, m), 2.50-2.08 (4H, m), 1.78-1.61 (6H, m), 1.50-1.10 (6H, m).

reactant | (2R,6S)-4-[1-(4-Cyanophenyl)-piperidine-4-carbonyl]-2,6-dimethylpiperazine hydrochloride | 0.30 g | Cl.C(#N)C1=CC=C(C=C1)N1CCC(CC1)C(=O)N1C[C@H](N[C@H](C1)C)C
reactant | cyclobutanone | 0.13 g | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | Cl | ClH
reactant | hydrogen chloride | 1 M | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (2R,6S)-1-Cyclobutyl-4-[1-(4-cyanophenyl)-piperidine-4-carbonyl]-2,6-dimethylpiperazine hydrochloride | 0.053 g | Cl.C1(CCC1)N1[C@@H](CN(C[C@@H]1C)C(=O)C1CCN(CC1)C1=CC=C(C=C1)C#N)C | InChI=1S/C23H32N4O.ClH/c1-17-15-26(16-18(2)27(17)22-4-3-5-22)23(28)20-10-12-25(13-11-20)21-8-6-19(14-24)7-9-21;/h6-9,17-18,20,22H,3-5,10-13,15-16H2,1-2H3;1H/t17-,18+;
